US07547729B2
4′-(Cyclohexylethyl)acetophenone
This compound was synthesized from 4′-hydroxyacetophenone and 2-cyclohexylethanol according to general method 5 described earlier.

reactant | 4′-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 2-cyclohexylethanol | C1(CCCCC1)CCO | C8H16O
product | 4′-(Cyclohexylethyl)acetophenone | C1(CCCCC1)CCC1=CC=C(C=C1)C(C)=O | C16H22O
